US08957070B2
7-Nitro-2-(1,3-thiazol-2-yl)-1H-indole
A mixture of 7-nitro-1H-indole-2-carbothioamide (2.06 g), 2-bromo-1,1-diethoxyethane (3.67 g), ethanol (10 mL) and N,N-dimethylacetamide (10 mL) was stirred at 100° C. for 4 hr. To the reaction mixture was added water, and the resulting crystals were filtrated, washed with water and hexane, and dried to give the title compound (2.21 g, yield 97%) as yellow crystals. melting point 130-131° C.

reactant | 7-nitro-1H-indole-2-carbothioamide | 2.06 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(N)=S | C9H7N3O2S
reactant | 2-bromo-1,1-diethoxyethane | 3.67 g | BrCC(OCC)OCC | C6H13BrO2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 7-Nitro-2-(1,3-thiazol-2-yl)-1H-indole | 2.21 g, yield 97% | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C11H7N3O2S
